US06271225B1
In the same manner as in Example 1 and using ethyl 2-(2-aminoanilino)-6-methoxybenzo[b]thiophene-3-carboxylate, 1-methylpiperazine, anisole and titanium tetrachloride, 3-methoxy-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine is obtained.

reactant | ethyl 2-(2-aminoanilino)-6-methoxybenzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)C=C(C=C3)OC)C(=O)OCC)C=CC=C1 | C18H18N2O3S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 3-methoxy-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | COC1=CC2=C(C=C1)C1=C(NC3=C(N=C1N1CCN(CC1)C)C=CC=C3)S2 | C21H22N4OS
